### PR TITLE
[Merged by Bors] - feat(Algebra/Lie): basics of loop algebras

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces the Lie algebra of polynomial loops in a base Lie algebra, together with the 2-cocycle induced by a symmetric invariant bilinear form on the base Lie algebra.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/BaseChange.lean [hunk 1]
```diff
@@ -122,6 +122,9 @@ instance instLieModule : LieModule A (A ⊗[R] L) (A ⊗[R] M) where
   smul_lie t x m := by simp only [bracket_def, map_smul, LinearMap.smul_apply]
   lie_smul _ _ _ := map_smul _ _ _
 
+instance instBaseLieAlgebra : LieAlgebra R (A ⊗[R] L) where
+  lie_smul r x y := by simp [bracket_def]
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/BaseChange.lean]: Could we move this up so that it is just below (or above) the `instLieAlgebra` instance with `A` coefficients?

File: Mathlib/Algebra/Lie/Loop.lean [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- A basis of single elements. -/
+def basisMonomial : Module.Basis A R (AddMonoidAlgebra R A) where
+  repr := LinearEquiv.refl R (A →₀ R)
+--#find_home! basisMonomial --Algebra.Lie.OfAssociative. Move to Algebra.Polynomial.Laurent?
+
+@[simp]
+lemma basisMonomial_apply (a : A) :
+    basisMonomial R A a = AddMonoidAlgebra.single a 1 :=
+  rfl
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]: How about placing this in `Mathlib.Algebra.MonoidAlgebra.Module` and just adding the import of `Mathlib.LinearAlgebra.Basis.Defs`?

I haven't run the import diff tool to see how much this might blow up the imports of `Mathlib.Algebra.MonoidAlgebra.Module` but I do note that if necessary we could move the lemma `Module.card_fintype` from `Mathlib.LinearAlgebra.Basis.Defs` to `Mathlib.LinearAlgebra.Basis.Basic` and then drop the `Mathlib.Data.Fintype.BigOperators` from the list of imports of `Mathlib.LinearAlgebra.Basis.Defs` which might help.

I also think that:

1. We should also make this definition for the multiplicative `MonoidAlgebra` case
2. We should name this `MonoidAlgebra.basis` / `AddMonoidAlgebra.basis`

File: Mathlib/Algebra/Lie/Loop.lean [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- A loop algebra is the base change of a Lie algebra `L` over `R` by `R[z,z^{-1}]`. -/
+abbrev LoopAlgebra := AddMonoidAlgebra R A ⊗[R] L
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]:
```suggestion
abbrev loopAlgebra := (AddMonoidAlgebra R A) ⊗[R] L
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 4]
```diff
@@ -0,0 +1,195 @@
...
+def basisMonomial : Module.Basis A R (AddMonoidAlgebra R A) where
+  repr := LinearEquiv.refl R (A →₀ R)
+--#find_home! basisMonomial --Algebra.Lie.OfAssociative. Move to Algebra.Polynomial.Laurent?
+
+@[simp]
+lemma basisMonomial_apply (a : A) :
+    basisMonomial R A a = AddMonoidAlgebra.single a 1 :=
+  rfl
+
+/-- A loop algebra is the base change of a Lie algebra `L` over `R` by `R[z,z^{-1}]`. -/
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]:
```suggestion
/-- A loop algebra is the base change of a Lie algebra `L` over `R` by `R[z,z⁻¹]`. We make a
slightly more general definition which coincides with the Laurent polynomial construction when
`A = ℤ`. -/
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 5]
```diff
@@ -0,0 +1,195 @@
...
+abbrev LoopAlgebra := AddMonoidAlgebra R A ⊗[R] L
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean:69]: If only for pedagogical reasons how about we add:
```suggestion

open LaurentPolynomial in
def loopAlgebraEquivLaurent :
    loopAlgebra R ℤ L ≃ₗ⁅R⁆ R[T;T⁻¹] ⊗[R] L :=
  LieEquiv.refl

```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 6]
```diff
@@ -0,0 +1,195 @@
...
+namespace LoopAlgebra
+
+instance instLieRing [AddCommMonoid A] : LieRing (LoopAlgebra R A L) :=
+  ExtendScalars.instLieRing R (AddMonoidAlgebra R A) L
+
+instance instLieAlgebra [AddCommMonoid A] :
+    LieAlgebra (AddMonoidAlgebra R A) (LoopAlgebra R A L) :=
+  ExtendScalars.instLieAlgebra R (AddMonoidAlgebra R A) L
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]: It looks to me like there's no need for these shortcut instances:
```suggestion
```

**Review by ocfnash — COMMENTED** [review]
Sorry to have kept you waiting so long on this. I expect to be much more responsive for the next few weeks.

File: Mathlib/Algebra/Lie/Loop.lean (hunk 2 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Loop.lean]: Looks like just +4. Are the other moves something that should be done anyway?

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Loop.lean]: > Looks like just +4.

Great!

> Are the other moves something that should be done anyway?

I think they're worth doing but only if you want: totally up to you.

File: Mathlib/Algebra/Lie/Loop.lean [hunk 7]
```diff
@@ -0,0 +1,188 @@
...
+  TensorProduct.equivFinsuppOfBasisLeft (AddMonoidAlgebra.basis A R)
+
+@[simp]
+lemma toFinsupp_symm_single (c : A) (z : L) :
+    (toFinsupp R A L).symm (Finsupp.single c z) = AddMonoidAlgebra.single c 1 ⊗ₜ[R] z := by
+  simp [toFinsupp]
+
+@[simp]
+lemma toFinsupp_single_tmul (c : A) (z : L) :
+    ((toFinsupp R A L) (AddMonoidAlgebra.single c 1 ⊗ₜ[R] z)) = Finsupp.single c z := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]:
```suggestion
    toFinsupp R A L (AddMonoidAlgebra.single c 1 ⊗ₜ[R] z) = Finsupp.single c z := by
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 8]
```diff
@@ -0,0 +1,188 @@
...
+      (residuePairing_finite_support R A L Φ y _), finsum_congr]
+    intro m
+    simp
+  map_smul' r x := by
+    ext n y
+    simp only [Finsupp.coe_smul, LinearMap.coe_comp, LinearMap.smul_apply, LinearMap.coe_mk,
+      AddHom.coe_mk, Function.comp_apply, RingHom.id_apply]
+    rw [smul_finsum' _ (residuePairing_finite_support R A L Φ x _), finsum_congr]
+    intro k
+    simp [mul_smul_comm]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]: I'm writing this rather quickly so hopefully I'm not confused but I think we should be able to use our `Finsupp` API to help here. E.g., I think this should work:
```suggestion
/-- The residue pairing on finitely supported functions.  When `A = ℤ` and the functions are viewed
as Laurent polynomials with coefficients in `L`, the pairing is interpreted as
`(f, g) ↦ Res f dg`. -/
@[simps]
def residuePairingFinsupp [AddCommGroup A] [DistribSMul A R] [SMulCommClass A R R]
    (Φ : LinearMap.BilinForm R L) :
    LinearMap.BilinForm R (A →₀ L) where
  toFun f :=
    { toFun g := f.sum fun a _ ↦ a • Φ (f (-a)) (g a)
      map_add' x y := by simp [← Finsupp.sum_add]
      map_smul' r x := by sorry }
  map_add' x y := by sorry
  map_smul' r x := by sorry
```
Separately, this only requires `L` to be an `R`-module so I think we should probably place this somewhere else.

Lastly we should perhaps state it as a result about `AddMonoidAlgebra` rather than `Finsupp`.

File: Mathlib/Algebra/Lie/Loop.lean [hunk 9]
```diff
@@ -0,0 +1,181 @@
...
+      map_smul' r x := by
+        rw [map_smul, Finsupp.sum_of_support_subset _ (Finsupp.support_smul) _ (by simp),
+          Finsupp.sum, Finset.smul_sum]
+        simp [-smul_eq_mul, smul_comm] }
+  map_add' x y := by
+    ext
+    simp [Finsupp.sum_add]
+  map_smul' r x := by
+    ext
+    simp [-smul_eq_mul, smul_comm]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]: This is just style nits but I find it quite a bit easier to take in at a glance (and I think will be slightly easier to maintain):
```suggestion
open Finsupp in
/-- The residue pairing on the loop algebra.  When `A = ℤ` and the elements are viewed as Laurent
polynomials with coefficients in `L`, the pairing is interpreted as `(f, g) ↦ Res f dg`. -/
@[simps]
def residuePairing [AddCommGroup A] [DistribSMul A R] [SMulCommClass A R R]
    (Φ : LinearMap.BilinForm R L) :
    LinearMap.BilinForm R (loopAlgebra R A L) where
  toFun f :=
    letI F := toFinsupp R A L
    { toFun g := (F g).sum fun a v ↦ a • Φ (F f (-a)) v
      map_add' x y := by
        classical
        let u : Finset A := (F x).support ∪ (F y).support
        have hu₁ : (F x).support ⊆ u := Finset.subset_union_left
        have hu₂ : (F y).support ⊆ u := Finset.subset_union_right
        have hu₃ : (F (x + y)).support ⊆ u := fun a ha ↦ by
          replace ha : F x a + F y a ≠ 0 := by simpa using ha
          grind
        rw [sum_of_support_subset _ hu₃ _ (by simp), sum_of_support_subset _ hu₁ _ (by simp),
          sum_of_support_subset _ hu₂ _ (by simp)]
        simp [Finset.sum_add_distrib, u]
      map_smul' r x := by
        rw [map_smul, sum_of_support_subset _ support_smul _ (by simp), sum, Finset.smul_sum]
        simp [-smul_eq_mul, smul_comm] }
  map_add' x y := by ext; simp [sum_add]
  map_smul' r x := by ext; simp [-smul_eq_mul, smul_comm]
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 10]
```diff
@@ -0,0 +1,181 @@
...
+    set s := (toFinsupp R A L f).support ∪ (toFinsupp R A L f).support.image (Equiv.neg A) with hs
+    rw [Finsupp.sum_of_support_subset _ (Finset.union_subset_left (u := s) fun _ x ↦ x) _ (by simp)]
+    let g := fun n ↦ n • (Φ (toFinsupp R A L f (-n))) (toFinsupp R A L f n)
+    refine Function.Odd.finset_sum_eq_zero (fun n ↦ by simp [hΦ.eq]) (Finset.map_eq_of_subset ?_)
+    intro x hx
+    rw [Finset.mem_union]
+    simp only [Finset.mem_map_equiv, Equiv.neg_symm, Equiv.neg_apply, hs, Finset.mem_union] at hx
+    obtain (h|h) := hx
+    · exact Or.inr <| Finset.mem_image.mpr <| Exists.intro (-x) (by simp [h])
+    · exact Or.inl (by simpa using h)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]: Again, just style / maintenance nits:
```suggestion
open LieModule in
/-- A 2-cochain on a loop algebra given by an invariant bilinear form. When `A = ℤ`, the alternating
condition amounts to the fact that Res f df = 0. -/
def twoCochainOfBilinear [CommRing A] [IsAddTorsionFree R] [Algebra A R]
    (Φ : LinearMap.BilinForm R L) (hΦ : Φ.IsSymm) :
    Cohomology.twoCochain R (loopAlgebra R A L) (TrivialLieModule R (loopAlgebra R A L) R) where
  val := (residuePairing R A L Φ).compr₂ (TrivialLieModule.equiv R (loopAlgebra R A L) R).symm
  property := by
    refine Cohomology.mem_twoCochain_iff.mpr fun f ↦ ?_
    letI F := toFinsupp R A L
    suffices ((F f).sum fun a v ↦ a • Φ (F f (-a)) v) = 0 by simpa
    classical
    set s := (F f).support ∪ (F f).support.image (Equiv.neg A) with hs
    have hs' : (F f).support ⊆ s := Finset.subset_union_left
    rw [Finsupp.sum_of_support_subset _ hs' _ (by simp)]
    refine Function.Odd.finset_sum_eq_zero (fun n ↦ by simp [hΦ.eq]) (Finset.map_eq_of_subset ?_)
    intro x hx
    rw [Finset.mem_union]
    replace hx : -x ∈ (F f).support ∨ -x ∈ (F f).support.image Neg.neg := by simpa [hs] using hx
    obtain (h | h) := hx
    · exact Or.inr <| Finset.mem_image.mpr ⟨-x, by simp [h]⟩
    · exact Or.inl <| by simpa using h
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 11]
```diff
@@ -0,0 +1,181 @@
...
+
+@[simp]
+lemma twoCochainOfBilinear_apply_apply [CommRing A] [IsAddTorsionFree R] [Algebra A R]
+    (Φ : LinearMap.BilinForm R L) (hΦ : LinearMap.BilinForm.IsSymm Φ)
+    (x y : loopAlgebra R A L) :
+    twoCochainOfBilinear R A L Φ hΦ x y =
+      (TrivialLieModule.equiv R (loopAlgebra R A L) R).symm ((residuePairing R A L Φ) x y) :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]:
```suggestion
    (Φ : LinearMap.BilinForm R L) (hΦ : Φ.IsSymm) (x y : loopAlgebra R A L) :
    twoCochainOfBilinear R A L Φ hΦ x y =
      (TrivialLieModule.equiv R (loopAlgebra R A L) R).symm (residuePairing R A L Φ x y) :=
```

File: Mathlib/Algebra/Lie/Loop.lean [hunk 12]
```diff
@@ -0,0 +1,181 @@
...
+      TensorProduct.curry_apply, LieModule.Cohomology.d₂₃_apply, twoCochainOfBilinear_apply_apply,
+      residuePairing_apply_apply, toFinsupp_single_tmul, map_zero, smul_zero,
+      Finsupp.sum_single_index, trivial_lie_zero, sub_self, add_zero, ExtendScalars.bracket_tmul,
+      AddMonoidAlgebra.single_mul_single, mul_one, zero_sub, LinearMap.zero_apply]
+    rw [sub_eq_zero, neg_add_eq_iff_eq_add, ← LinearEquiv.map_add, EquivLike.apply_eq_iff_eq]
+    by_cases h0 : a + b + c = 0
+    · rw [show a + b = -c by grind, show a + c = -b by grind, show b + c = -a by grind]
+      simp only [Finsupp.single_eq_same]
+      rw [hΦ, hΦs.eq z ⁅x, y⁆, hΦ y, ← lie_skew y x, hΦs.eq z, LinearMap.BilinForm.neg_left,
+        neg_neg, show b = -(a + c) by grind, neg_smul, smul_neg, neg_neg, add_smul, add_comm]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Loop.lean]:
```suggestion
open LieModule in
/-- A 2-cocycle on a loop algebra given by an invariant bilinear form. -/
@[simps]
def twoCocycleOfBilinear [CommRing A] [IsAddTorsionFree R] [Algebra A R]
    (Φ : LinearMap.BilinForm R L) (hΦ : Φ.lieInvariant L) (hΦs : Φ.IsSymm) :
    Cohomology.twoCocycle R (loopAlgebra R A L) (TrivialLieModule R (loopAlgebra R A L) R) where
  val := twoCochainOfBilinear R A L Φ hΦs
  property := by
    apply (LieModule.Cohomology.mem_twoCocycle_iff ..).mpr
    ext a x b y c z
    suffices
        b • Φ (Finsupp.single (a + c) ⁅x, z⁆ (-b)) y =
        c • Φ (Finsupp.single (a + b) ⁅x, y⁆ (-c)) z +
        a • Φ (Finsupp.single (b + c) ⁅y, z⁆ (-a)) x by
      simpa [sub_eq_zero, neg_add_eq_iff_eq_add, ← LinearEquiv.map_add, -LinearEquiv.map_add]
    by_cases h0 : a + b + c = 0
    · suffices b • Φ ⁅x, z⁆ y = c • Φ ⁅x, y⁆ z + a • Φ ⁅y, z⁆ x by
        simpa only [show a + b = -c by grind, show a + c = -b by grind, show b + c = -a by grind,
          Finsupp.single_eq_same]
      rw [hΦ, hΦs.eq z ⁅x, y⁆, hΦ y, ← lie_skew y x, hΦs.eq z, Φ.neg_left, neg_neg,
        show b = -(a + c) by grind, neg_smul, smul_neg, neg_neg, add_smul, add_comm]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
